Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left lower lobe lung nodule.
 
Major Surgical or Invasive Procedure:
Left VATS and wedge resection of left lower lobe nodules.

 
History of Present Illness:
Ms. ___ is a ___ woman whose oncologic 
history begins in ___ when she was diagnosed with right 
breast ductal carcinoma in situ.  She has a strong family 
history of breast carcinoma and had been undergoing intensive 
screening with mammogram and breast MRIs.  A breast MRI done on 
___ showed some abnormality in the right breast.  She 
underwent core needle biopsy of the lesion on ___.  
Pathology showed ductal carcinoma in situ.  She subsequently 
underwent right breast wire-localized partial mastectomy on 
___. She underwent postoperative radiation therapy at ___ 
___. Pathology from the procedure showed negative margins 
of at least 5 mm.  She was seen by the genetics team on 
___.  She underwent genetic testing.  This showed no 
evidence of BRCA mutations.  She has been undergoing 
surveillance with alternating mammograms and breast MRI imaging 
since that time.

She underwent MRI screening of the breasts on ___.  This 
showed no evidence of abnormality within the breasts, but she 
did have evidence of a 7.9 x 4.4 by 5.0 cm right middle lobe 
mass and a 1.4 x 0.6 cm prevascular lymph nodes. Follow-up CT 
imaging done on ___ confirmed the finding of a right middle 
lobe mass.  By CT it measures 6.2 cm in diameter.  There was 
attenuation of the lobular pulmonary artery and vein suspicious 
for invasion.  There is also right hilar and mediastinal 
lymphadenopathy measuring up to 1.6 cm.  There are also multiple 
nodules noted in the
bilateral lung including a subpleural nodule in the left lower 
lobe measuring up to 7 mm.  

A PET CT was done on ___.  This demonstrated the known right 
central mass and mediastinal and hilar lymphadenopathy seen on 
CT imaging.  No sites of distant metastatic disease were 
appreciated on PET imaging.  Specifically, the pulmonary nodules 
noted on CT imaging were not hypermetabolic.

On ___ she underwent bronchoscopy with endobronchial 
ultrasound and transbronchial biopsy.  Biopsies were taken at 
the 10L, 4L, 4R, and 11R and 7 stations.  Pathology of the lung 
mass and all 5 biopsied lymph node station was positive for 
adenocarcinoma.  Tumor cells were negative for p40 and positive
for TTF-1 by immunohistochemistry.

We felt this that nodule may represent either a primary lung 
cancer or focus of metastatic disease.  We therefore brought the 
patient to the operating room for therapeutic wedge resection of 
this nodule.

 
Past Medical History:
OTHER PAST MEDICAL HISTORY:
Right breast DCIS with radiation therapy
Hypertension

PAST SURGICAL HISTORY:
Right breast partial mastectomy 
 
Social History:
___
Family History:
Her mother had breast cancer, diagnosed at age ___.  She also had 
colon cancer and died at age ___.  Her father was also diagnosed 
with breast cancer.  Her paternal uncle had both melanoma and 
kidney cancer.  Her paternal first cousin had kidney cancer.
 
Physical Exam:
VS 98.7  120/74  74  18  92@ra
General - NAD, sitting up in bed
Eyes - PERRLA, EOMI
ENT - mucus membranes moist
Neck - No noticeable or palpable swelling
Cardiovascular - RRR no m/r/g, no JVD
Lungs - CTAB, shallow inspiratory effort, no use of acessory 
muscles
Skin - No rashes, skin warm and dry, no erythematous areas, VATS 
incision without bleeding or drainage 
Abdomen - Soft, nondistended, nontender
Extremeties - No edema, cyanosis or clubbing
 
Pertinent Results:
___ 10:20 
COMPLETE BLOOD COUNT 
White Blood Cells 7.6 4.0 - 10.0 K/uL E 
Red Blood Cells 4.29 3.9 - 5.2 m/uL E 
Hemoglobin 13.0 11.2 - 15.7 g/dL E 
Hematocrit 38.9 34 - 45 % E 
MCV 91 82 - 98 fL E 
MCH 30.3 26 - 32 pg E 
MCHC 33.4 32 - 37 g/dL E 
RDW 13.5 10.5 - 15.5 % E 
RDW-SD 44.1 35.1 - 46.3 fL E 
DIFFERENTIAL 
Absolute Neutrophil Count 5.28 1.6 - 6.1 K/uL E 
BASIC COAGULATION ___, PTT, PLT, INR) 
Platelet Count ___ K/uL E 

 
CHEST (PA & LAT) Study Date of ___ 4:19 ___
In comparison with the study of ___, the chest tube is been 
removed and there is no evidence of left pneumothorax. 
Otherwise, little change. 
  
 
 
  

 
Brief Hospital Course:
Ms ___ was admitted on ___ under the thoracic surgery 
service for management of left lower lung lobe nodule.  On the 
same day the patient  was taken to the operating room and 
underwent left VATS and wedge resection of the left lower lobe 
nodules. Please see operative report for details of this 
procedure. She tolerated the procedure well and was extubated 
upon completion.  The patient  was then taken to the PACU for 
recovery. Once deemed stable she was transferred to the floor. 
Her vital signs were routinely monitored and the patient 
remained afebrile and hemodynamically stable.  She was initially 
NPO and given IV fluids postoperatively, which were discontinued 
when the patient was tolerating PO. The diet was advanced 
incrementally to regular which was tolerated well, without 
abdominal pain, nausea, or vomiting. The patient initially had 
an indwelling Foley catheter which was removed once the patient 
was producing an adequate amount of urine. There were some 
issues with urinary retention initially after the operation and 
the Foley had to be replaced. Urinalysis demonstrated a UTI. She 
was started on a 3 day course of antibiotic. The chest tube was 
removed on ___ and the Foley on ___. Se was able to void 
without difficulty. She was encouraged to mobilize out of bed 
early and to ambulate as tolerated, which she could do 
independently. The pain from the operation was routinely 
monitored. This initially was well-controlled with a PCA and 
subsequently with oral analgesics as needed. 

On ___ the patient was discharged home with detailed home 
care instructions. She was instructed to call the clinic to 
schedule/confirm her follow up appointment which should be 
scheduled in 2 weeks. She verbalized understanding and agreement 
with the discharge plan. All questions were answered to the 
patient’s satisfaction.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO BID:PRN anxiety 
2. amLODIPine 5 mg PO DAILY 
3. FLUoxetine 40 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H Duration: 24 Hours 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*5 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Do not drive while on this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*20 Packet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*20 
Capsule Refills:*0 
7.  amLODIPine 5 mg PO DAILY  
8.  FLUoxetine 40 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  LORazepam 0.5 mg PO BID:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lower lobe lung nodule.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital after a Video-Assisted Left 
Thorascopic Wedge/Lobe Resection for surgical management of your 
lung nodule. You have recovered from this procedure well and you 
are now ready to return home. Samples from your lung were taken 
and this tissue has been sent to the pathology department for 
analysis. You will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact you regarding these results they will contact 
you before this time. You are breathing well, have tolerated a 
regular diet, are passing gas and your pain is controlled with 
pain medications by mouth. You may return home to finish your 
recovery.  
 Please monitor your breathing function. Continue to use your 
incentive spirometer 10 times an hour while awake. Check your 
incisions daily and report any increased redness or drainage. 
Cover the area with a gauze pad if it is draining. Your chest 
tube dressing may be removed in 48 hours. If it starts to drain, 
cover it with a clean dry dressing and change it as needed to 
keep site clean and dry. If you experience worsening shortness 
of breath, severe chest pain, please come to the emergency room 
for immediate evaluation.  
 You will be prescribed narcotic pain medication oxycodone. This 
medication should be taken when you have pain and as needed as 
written on the bottle. This is not a standing medication. You 
should continue to take Tylenol for pain around the clock and 
you can also take Advil. Please do not take more than 3500mg of 
Tylenol in 24 hours. Do not drink alcohol while taking narcotic 
pain medication or Tylenol. Please do not drive a car while 
taking narcotic pain medication. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace or Miralax, and if the symptoms do not improve 
call the office. If you have any of the following symptoms 
please call the office for advice or go to the emergency room if 
severe: increasing abdominal distension, increasing abdominal 
pain, nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or extended constipation. If your doctor 
allows you may also take Ibuprofen to help relieve the pain. 
Continue to stay well hydrated and eat well to heal your 
incisions  
 You have ___ laparoscopic surgical incisions on the side of 
your chest which are closed with internal sutures and a skin 
glue called Dermabond. These are healing well, however it is 
important that you monitor these areas for signs and symptoms of 
infection including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area. Please call the office if you develop any 
of these symptoms or a fever. You may go to the emergency room 
if your symptoms are severe.  
 You may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips) instead of 
Dermabond, these will fall off over time, please do not remove 
them. Please no baths or swimming for 6 weeks after surgery 
unless told otherwise by your surgical team. Please no lotions 
or creams to incision site until at least your postop visit.  
 Please walk ___ times a day and gradually increase your 
activity as you can tolerate. No heavy lifting greater than 6 
lbs for until your first post-operative visit after surgery, 
unless otherwise instructed. Please no strenuous activity until 
this time unless instructed otherwise by Dr. ___. 
While in the hospital you experienced urinary retention and were 
diagnosed with a urinary tract infection. Please take the 
antibiotic as prescribed until completion. You were also 
prescribed Flomax for urinary retention. The need for 
continuation of this medication will be reassessed at the follow 
up appointment. 
 Call Dr. ___ office at ___ or visit the emergency 
room if you experience any of the following:  
 -Temp > 101, chills, increased shortness of breath, chest pain 
or any other symptoms that concern you.  
 Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. 
 
Followup Instructions:
___